US07317027B2
(v) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
0.135 g (0.4 mmol) of 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid, 0.432 g (3.8 mmol) of NEM and 135 mg (0.4 mmol) of TOTU were dissolved in 3 mL of DMF and stirred at RT for 20 min. 89 mg (0.4 mmol) of 1-Isopropyl-piperidin-4-ylamine dihydrochloride salt was added to the reaction solution and stirred at RT for 4 h. The product was purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization the product was obtained as a solid.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 0.4 mmol, 0.135 g | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC=2C1=NC=CC2)C(=O)O | C16H10ClN3O3S
reactant | TOTU | 0.4 mmol, 135 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 1-Isopropyl-piperidin-4-ylamine dihydrochloride salt | 0.4 mmol, 89 mg | Cl.Cl.C(C)(C)N1CCC(CC1)N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=CC=2C(=NC=CC2)N1CC1=NOC(=C1)C=1SC(=CC1)Cl | C24H26ClN5O2S
